US06673625B2
N-n-Butyl-4-chloronaphthalene-1,8-dicarboximide (1ax):
This compound has been reported previously. This preparation is similar to previously reports (see e.g. Daffy et al. Chem-Eur J 1998, 4, 1810-1815; de Silva et al., Chem Rev 1997, 97, 1515-1566). A portion of n-butylamine (5.00 mL, 50.6 mmol) was added to a suspension of 4-chloronaphthalene-1,8-dicarboximide (11.7 g, 50.5 mol) in 160 mL of toluene. This mixture was brought to reflux for 17 hours to give a dark black-brown solution. Crystallization from hexanes/toluene at −10° C. gave 1ax as a pure brownish-yellow powder (11.1 g, 76%). 1H NMR: δ=8.65 (d, 1H, J=7.4 Hz), 8.58 (d, 1H, J=8.6 Hz), 8.49 (d, 1H, J=7.9 Hz), 7.85 (t, 1H, J=7.9 Hz), 7.81 (d, 1H, J=7.9 Hz), 4.18 (t, 2H, J=7.6 Hz), 1.72 (m, 2H), 1.45 (m, 2H), 0.98 (t, 2H, J=7.4 Hz). 13C{1H} NMR: δ=163.8, 163.5, 139.0, 132.0, 131.2, 130.6, 129.3, 129.1, 127.9, 127.5, 123.2, 121.7, 40.5, 30.3, 20.5, 14.0. ESI/MS m/z.

reactant | n-butylamine | 50.6 mmol, 5.00 mL | C(CCC)N | C4H11N
reactant | 4-chloronaphthalene-1,8-dicarboximide | 50.5 mol, 11.7 g | ClC1=CC=C2C3=C(C=CC=C13)C(NC2=O)=O | C12H6ClNO2
solvent | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
product | N-n-Butyl-4-chloronaphthalene-1,8-dicarboximide | 11.1 g, 76% | C(CCC)N1C(=O)C2=CC=C(C3=CC=CC(=C23)C1=O)Cl | C16H14ClNO2
